US06706763B1
To 2.55 g of publicly known 5-cyanomethyl-2-methoxybenzoic acid were added 50 ml of dimethylformamide, 2.57 g of 4-trifluoromethylbenzylamine, 2.66 g of diethyl cyanophosphonate and 2.00 ml of triethylamine, and the mixture was stirred for 20 minutes under cooling with ice and for 6 hours at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. After washed with water, then with saturated brine, the organic layer was dried over anhydrous sodium sulfate. Solvent was distilled off under reduced pressure, and the residue was crystallized from hexane-diethyl ether and collected by filtration to obtain 4.44 g of 5-cyanomethyl-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide as colorless crystals. Melting point 124-125° C. Elemental analysis (%) C16H15F3N2O2 Calcd.(%) C, 62.07; H, 4.34; N, 8.04 Found (%) C, 62.03; H, 4.27; N, 7.99

reactant | 5-cyanomethyl-2-methoxybenzoic acid | C(#N)CC=1C=CC(=C(C(=O)O)C1)OC | C10H9NO3
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 4-trifluoromethylbenzylamine | 2.57 g | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | diethyl cyanophosphonate | 2.66 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | water | O | H2O
solvent | triethylamine | 2.00 ml | C(C)N(CC)CC | C6H15N
product | 5-cyanomethyl-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 4.44 g | C(#N)CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC | C18H15F3N2O2
